US06887896B1
(2E)-2-Fluoro-3-(4,4-dimethyl-6-ethoxy-1-isopropyl-3,4-dihydronaphthalen-7-yl)2-butenol (Compound A-52)
Following General Procedure G-1, diisobutylaluminum hydride (1.0 M in hexanes, 2.2 mL, 2.2 mmol) and ethyl (2E)-2-fluoro-3-(4,4-dimethyl-6-ethoxy-1-isopropyl-3,4-dihydronaphthalen-7-yl)-2-butenoate (Compound A-43, 0.205 g, 0.55 mmol) in THF (6 mL) were reacted to give the title compound.

reactant | diisobutylaluminum hydride | 2.2 mmol, 1.0 M, 2.2 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl (2E)-2-fluoro-3-(4,4-dimethyl-6-ethoxy-1-isopropyl-3,4-dihydronaphthalen-7-yl)-2-butenoate | 0.55 mmol, 0.205 g | F\C(\C(=O)OCC)=C(/C)\C1=C(C=C2C(CC=C(C2=C1)C(C)C)(C)C)OCC | C23H31FO3
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | (2E)-2-Fluoro-3-(4,4-dimethyl-6-ethoxy-1-isopropyl-3,4-dihydronaphthalen-7-yl)2-butenol | F\C(\CO)=C(/C)\C1=C(C=C2C(CC=C(C2=C1)C(C)C)(C)C)OCC | C21H29FO2
